US07732468B2
6-(4-Morpholinophenyl)-3-(3,4,5-trimethoxyphenyl)-[1,2,4]triazolo[3,4-b][1,3,4]thiadiazole
A mixture of 4-morpholinobenzoic acid (86 mg, 0.42 mmol) and 4-amino-3-mercapto-5-(3,4,5-trimethoxyphenyl)-4H-1,2,4-triazole (102 mg, 0.36 mmol) was refluxed in POCl3 (5 mL) for 2 h. The reaction mixture was cooled to room temperature and excess POCl3 was removed under vacuum. The residue was dissolved in ethyl acetate and washed with saturated NaHCO3. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The crude product was purified by chromatography (80% ethyl acetate/hexane; 1 mL methanol/100 mL of solvent) to give the title compound as a yellow solid (40 mg, 0.088 mmol, 24%). 1H NMR (CDCl3): 7.78 (m, 2H), 7.73 (s, 2H), 6.98 (m, 2H), 4.00 (s, 6H), 3.94 (s, 3H), 3.89 (m, 4H), 3.41 (m, 4H).

reactant | 4-morpholinobenzoic acid | 0.42 mmol, 86 mg | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 4-amino-3-mercapto-5-(3,4,5-trimethoxyphenyl)-4H-1,2,4-triazole | 0.36 mmol, 102 mg | NN1C(=NN=C1C1=CC(=C(C(=C1)OC)OC)OC)S | C11H14N4O3S
solvent | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-(4-Morpholinophenyl)-3-(3,4,5-trimethoxyphenyl)-[1,2,4]triazolo[3,4-b][1,3,4]thiadiazole | 0.088 mmol, 40 mg, 24% | O1CCN(CC1)C1=CC=C(C=C1)C1=NN2C(S1)=NN=C2C2=CC(=C(C(=C2)OC)OC)OC | C22H23N5O4S
